US06822100B2
Racemic [trans-2-[6-trifluoromethyl-1-(p-toluenesulfonyl)indol-3-yl]-cyclopropane-carboxaldehyde was prepared in an 89% yield from racemic [trans-2-[6-trifluoromethyl-1-(p-toluenesulfonyl)indol-3-yl]cycloprop-1-yl]-N-methoxy-N-methyl-carboxamide in a similar manner to [trans-2-[5-cyano-1-(p-toluenesulfonyl)indol-3-yl]cyclopropane-carboxaldehyde in Example 1. 1H NMR (400 MHz, DMSO-d6) 9.12 (1H, d, J=5.4 Hz), 8.15 (1H, s), 7.92 (4H, m), 7.64 (1H, dd, J=8.3, 1.1 Hz), 7.41 (2H, d, J=8.1 Hz), 2.78 (1H, m), 2.32 (3H, s), 2.15 (1H, m), 1.71 (2H, m); MS m/e 406 (M−H)−. Anal calcd. for C20H16F3NO3S: C, 58.96; H, 3.95; N, 3.43. Found: C, 58.93; H, 3.93; N, 3.25.

reactant | racemic [trans-2-[6-trifluoromethyl-1-(p-toluenesulfonyl)indol-3-yl]cycloprop-1-yl]-N-methoxy-N-methyl-carboxamide | FC(C1=CC=C2C(=CN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C)[C@H]1[C@@H](C1)C(=O)N(C)OC)(F)F | C22H21F3N2O4S
reactant | trans-2-[5-cyano-1-(p-toluenesulfonyl)indol-3-yl]cyclopropane-carboxaldehyde | C(#N)C=1C=C2C(=CN(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)[C@H]1[C@@H](C1)C=O | C20H16N2O3S
product | trans-2-[6-trifluoromethyl-1-(p-toluenesulfonyl)indol-3-yl]-cyclopropane-carboxaldehyde | 89% yield | FC(C1=CC=C2C(=CN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C)[C@H]1[C@@H](C1)C=O)(F)F | C20H16F3NO3S
